US05091387
(1S(1.Alpha.,2α,4α))-2-hydroxy-7,7-dimethyl-1-((spiro(1H-indene-1,4'-piperidin)-1'-ylsulfonyl)methyl)-bicyclo(2.2.1)heptane-2-acetic acid
(1S(1.Alpha.,2α,4.alpha))-2-hydroxy-7,7-dimethyl-1-((spiro(1H-indene-1,4'-piperidin)-1'-yl sulfonyl)methyl)bicyclo(2.2.1)heptane-2-acetic acid ethyl ester (3.8 g, 7.8 mmol) was stirred in methanol (40 ml) containing sodium hydroxide (10 ml of a 1.0M solution in water; 10 mmol) for 4.5 hrs. The mixture was evaporated to dryness in vacuo, treated with water (250 ml) and washed with ether. The aqueous layer was acidified with conc HCl and extracted with ether, and the ether layer from this extraction was dried over sodium sulfate, filtered, and evaporated to dryness in vacuo. The residue was chromatographed an a silica gel column eluted with CH2Cl2 followed by 90:10:0.1:0.1 of CH2Cl2 :MeOH:HOAc:H2O. The product fractions were evaporated to dryness in vacuo, and the residue was triturated with ether and hexane and filtered to give the title compound as a solid: (mp 137.5°-139.5°).

reactant | 2-hydroxy-7,7-dimethyl-1-((spiro(1H-indene-1,4'-piperidin)-1'-yl sulfonyl)methyl)bicyclo(2.2.1)heptane-2-acetic acid ethyl ester | 7.8 mmol, 3.8 g | C(C)OC(CC1(C2(CCC(C1)C2(C)C)CS(=O)(=O)N2CCC1(CC2)C=CC2=CC=CC=C21)O)=O | C27H37NO5S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
solvent | water | O | H2O
product | 2-hydroxy-7,7-dimethyl-1-((spiro(1H-indene-1,4'-piperidin)-1'-ylsulfonyl)methyl)-bicyclo(2.2.1)heptane-2-acetic acid | OC1(C2(CCC(C1)C2(C)C)CS(=O)(=O)N2CCC1(CC2)C=CC2=CC=CC=C21)CC(=O)O | C25H33NO5S
